US06933322B2
2-amino-5-(Benzothiazol-2-ylmethoxy)-naphthalene
Sodium hydride (1.05 g) is added to a cooled solution of 2-Amino-5-naphthol (4.18 g) in dimethylformamide (100 mL). Stir at room temperature 15 minutes and cool mixture. 2-Bromomethylbenzothiazole (6.00 g) is added and mixture to allowed to warm slowly and stir for 24 hours. Remove dimethylformamide in vacuo. Redilute with ethylacetate and absorb onto silica gel. Chromatograph (ethyl acetate/hexane) to give a brown solid (1.20 g, 15%) which was used directly in the next step., m.p. 141-143° C. 1H NMR (DMSO-d6, 400 MHz): d 5.43 (br s, 2H), 5.69 (s, 2H), 6.72 (d, 1H), 6.80 (s, 1H), 6.95 (d, 1H), 7.12-7.20 (m, 2H), 7.45 (t, 1H), 7.54 (t, 1H), 7.97 (d, 1H), 8.02 (d, 1H), 8.14 (d, 1H). MS [EI, m/z]: 306 [M]+. Anal. Calcd. for C18H14N2OS: C, 70.56; H, 4.61; N, 9.14. Found: C, 70.38; H, 4.42; N, 9.25.

reactant | Sodium hydride | 1.05 g | [H-].[Na+]
reactant | 2-Amino-5-naphthol | 4.18 g | NC1=CC=2C=CC=C(C2C=C1)O | C10H9NO
reactant | 2-Bromomethylbenzothiazole | 6.00 g | BrCC=1SC2=C(N1)C=CC=C2 | C8H6BrNS
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 2-amino-5-(Benzothiazol-2-ylmethoxy)-naphthalene | 1.20 g, 15% | NC1=CC2=CC=CC(=C2C=C1)OCC=1SC2=C(N1)C=CC=C2 | C18H14N2OS
